US06642264B1
2-Hydroxymethyl-3-methylthiazolo[3,2-a]benzoimidazole
Under ice-cooling, 3-methylthiazolo[3,2-a]benzoimidazole-2-carboxylic acid ethyl ester (Can. J. Chem., 45 (23), 2903-2912 (1967) (10 g) was added to THF (250 ml) suspension of LiAlH4 (1.46 g) and stirred at the same temperature for 1 hour. While cooling, the reaction solution was mixed with Na2SO4.10H2O and stirred, and then the insoluble matter was removed by filtration and the solvent was evaporated under a reduced pressure to obtain the title compound (6.36 g).

reactant | 3-methylthiazolo[3,2-a]benzoimidazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N2C(=NC3=C2C=CC=C3)S1)C | C13H12N2O2S
reactant | LiAlH4 | 1.46 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-3-methylthiazolo[3,2-a]benzoimidazole | 6.36 g | OCC1=C(N2C(=NC3=C2C=CC=C3)S1)C | C11H10N2OS
